US05792769
b) 3-Benzyloxyphenol
3-Benzyloxyphenyl acetate (4.84 g, 20 mmol), as prepared in the preceding step, in tetrahydrofuran (50 mL) was treated with 1N NaOH (30 mL) for 3 h at room temperature. The mixture was acidified with 1N HCl and extracted into ethyl acetate (3×100 ML). The organic phase was washed with brine (2×50 mL), dried over Na2SO4, and concentrated in vacuo. The residue was then purified by flash column chromatography (methylene chloride) to give the title compound as a colorless liquid (3.80 g, 96%). 1H-NMR (300 MHz, CDCl3) δ 5.01 (s, 2H), 5.09 (s, 1fH), 6.47 (m, 2H), 6.56 (dd, 1H), 7.11 (t, 1H), 7.39 (m, 5H).

reactant | 3-Benzyloxyphenyl acetate | 20 mmol, 4.84 g | C(C)(=O)OC1=CC(=CC=C1)OCC1=CC=CC=C1 | C15H14O3
reactant | NaOH | 1N, 30 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-Benzyloxyphenol | 3.80 g, 96% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
